US06506797B1
5-Formyl-2-methoxy-N-[[4-(trifluoromethyl)phenyl]methyl]-benzamide
Publicly known [e.g. E. J. Wayne et al, J. Chem. Soc., 1022(1922)] 5-formyl-2-methoxybenzoic acid (4.05 g, 22.5 mmol) was dissolved in 80 ml of dichloromethane, which was cooled with ice. Triethylamine (7.94 ml, 56.2 mmol) was added under stirring. Next, ethyl chlorocarbonate (2.44 ml, 24.8 mmol) was added and, after stirring for 10 minutes, 4-(trifluoromethyl)benzylamine (3.31 ml, 22.5 mmol) was added dropwise, which was allowed to stand overnight. After washed with water, the reaction mixture was dried over anhydrous sodium sulfate and concentrated. Water was added to the residue, which was made acidic with dilute hydrochloric acid. Then, the precipitates were filtered and dried to quantitatively obtain the title compound as milky white crystals.

reactant | 5-formyl-2-methoxybenzoic acid | 22.5 mmol, 4.05 g | C(=O)C=1C=CC(=C(C(=O)O)C1)OC | C9H8O4
reactant | Triethylamine | 56.2 mmol, 7.94 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 24.8 mmol, 2.44 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | 4-(trifluoromethyl)benzylamine | 22.5 mmol, 3.31 ml | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 5-Formyl-2-methoxy-N-[[4-(trifluoromethyl)phenyl]methyl]-benzamide | C(=O)C=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC | C17H14F3NO3
